US05300514
1-[(4-Aminophenyl)aminocarbonyl]-4,5-diphenyl-3-pyrazolidinone
1-[(4-Nitrophenyl)aminocarbonyl]-4,5-diphenyl-3-pyrazolidinone (500 mg, 1.24 mmol) was dissolved in 50 mL EtOH and hydrogenated with 5% Pd/C (500 mg) under 60 p.s.i. H2, overnight at room temperature. The mixture was filtered to remove catalyst, solvent removed in vacuo, and the product isolated by chromatography (0-50% EtOAc:hexane gradient) as 125 mg (27%) solid.

reactant | 1-[(4-Nitrophenyl)aminocarbonyl]-4,5-diphenyl-3-pyrazolidinone | 1.24 mmol, 500 mg | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)N1NC(C(C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H18N4O4
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 1-[(4-Aminophenyl)aminocarbonyl]-4,5-diphenyl-3-pyrazolidinone | 125 mg, 27% | NC1=CC=C(C=C1)NC(=O)N1NC(C(C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H20N4O2
